US09388197B2
A.2.8.2. Synthesis of 5,7-dichloro-2,3-dihydro-1H-inden-1-amine
A soln. of BH3 (0.6 mL, 1M in THF) was added to a soln. of 5,7-dichloro-2,3-dihydro-1H-inden-1-one O-methyl oxime (0.31 mmol) in 1 mL THF. The reaction mixture was heated to 60° C. for 3 days. An aq. 1M NaOH soln was added and heating to 60° C. was continued for another 24 h. The solvent was removed under vacuo, the residue was diluted with a sat. aq. NaHCO3 soln. and extracted 3 times with EtOAc. The comb. org. layers were dried over MgSO4 and conc. in vacuo to give the desired product as colorless oil.

reactant | 5,7-dichloro-2,3-dihydro-1H-inden-1-one O-methyl oxime | 0.31 mmol | CON=C1CCC2=CC(=CC(=C12)Cl)Cl | C10H9Cl2NO
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5,7-dichloro-2,3-dihydro-1H-inden-1-amine | ClC=1C=C2CCC(C2=C(C1)Cl)N | C9H9Cl2N
